### PR TITLE
Two simple adjunctions between setoids, categories and groupoids.

### PR DESCRIPTION
**Pull request by sstucki**
Following @JacquesCarette's [suggestion](https://twitter.com/stuckintheory/status/1162321902012108800) I tried to mechanize a simple (or so I thought) adjunction. I failed to prove that the relevant pair of functors actually forms an adjunction (they probably don't), but ended up mechanizing some other stuff, which is in this PR now.

I don't think the PR should be merged as is, though.

My code probably doesn't follow the library conventions (I'm not sure what exactly these are) and I left quite a few comments in the code with questions around library design and such that I think should be removed first. My intention is to do that and update the PR if someone can guide me and help answer my questions.

Here is a summary of the questions/comments I have:
 - I'm not sure what should go into `Categories.Functor.Instance` and what should go into `Categories.Functor.Construction`.  For example, where should `Categories.Functor.Instance.Core` go?
 - I find it a bit confusing that properties and structures are sometimes named interchangeably. For example the `Groupoid` record is not really a groupoid, it's a predicate on categories that says that the category in question _is_ a groupoid. In the standard library, there are usually two distinct records for structures and properties, e.g. `Setoid` and `IsEquivalence` or `Poset` and `IsPartialOrder`.  Maybe this convention could be used here too? E.g. `Groupoid` and `IsGroupoid`?
 - Should the `Isos` category defined in `Categories.Morphism.IsoEquiv` be renamed to `Core`? Generally, I wonder whether there is some official "reference" for naming things in the library. nLab?
 - I reimplemented some existing functionality/proofs because I did not realize that it was already included in some other part of the library. In general, I removed my duplicates when I noticed the original, but I might have missed some. I at least one case, I decided to keep a reimplementation that is equivalent but different (equality of isomorphisms).

### CODE REVIEW

File: Categories/Adjoint/Instance/ZeroTruncation.agda [hunk 1]
```diff
@@ -0,0 +1,99 @@
...
+    ; homomorphism = lift tt
+    ; F-resp-≈     = λ _ → lift tt
+    }
+  ; identity     = refl
+  ; homomorphism = refl
+  ; F-resp-≈     = λ {S T f g} f≗g →
+    let module S = Setoid S
+        module T = Setoid T
+    in record
+    { F⇒G = record { η = λ _ → f≗g S.refl         ; commute = λ _ → lift tt }
```
Comment (JacquesCarette) [inline Categories/Adjoint/Instance/ZeroTruncation.agda]: similarly for all `lift tt` below.

File: Categories/Adjoint/Instance/ZeroTruncation.agda [hunk 2]
```diff
@@ -0,0 +1,99 @@
...
+    ; F⇐G = record { η = λ _ → T.sym (f≗g S.refl) ; commute = λ _ → lift tt }
+    ; iso = λ _ → record { isoˡ = lift tt ; isoʳ = lift tt }
+    }
+  }
+  where
+    open Π
+
+    Thin : Setoid c ℓ → Groupoid c ℓ e
```
Comment (JacquesCarette) [inline Categories/Adjoint/Instance/ZeroTruncation.agda]: I think this function is useful enough to be exposed. In fact, I almost just re-implemented it!

File: Categories/Category/Instance/Groupoids.agda [hunk 3]
```diff
@@ -0,0 +1,72 @@
+{-# OPTIONS --without-K --safe #-}
+module Categories.Category.Instance.Groupoids where
```
Comment (JacquesCarette) [inline Categories/Category/Instance/Groupoids.agda]: This part should definitely be pulled out of this PR - I know you've already done so, but it also means I can't do much with this PR as is.

File: Categories/Functor/Instance/Core.agda [hunk 4]
```diff
@@ -0,0 +1,94 @@
+{-# OPTIONS --without-K --safe #-}
+
+module Categories.Functor.Instance.Core where
```
Comment (JacquesCarette) [inline Categories/Functor/Instance/Core.agda]: Excellent - please submit as a separate PR.

File: Categories/Functor/Instance/ZeroTruncation.agda [hunk 5]
```diff
@@ -0,0 +1,57 @@
+{-# OPTIONS --without-K --safe #-}
+
+module Categories.Functor.Instance.ZeroTruncation where
+
+-- 0-trucation of groupoids as a functor from Groupoids to Setoids.
+--
+-- This is the right-adjoint of the inclusion functor from Setoids to
+-- Groupoids (see Categories.Functor.Adjoint.Instance.ZeroTruncation)
+
+-- FIXME: maybe this should go into Categories.Category.Construction
```
Comment (JacquesCarette) [inline Categories/Functor/Instance/ZeroTruncation.agda]: No, this is the right place.  `Construction` is when there is an input, `Trunc` is just a `Functor` that doesn't depend on any external data.

File: Categories/Morphism.agda [hunk 6]
```diff
@@ -30,13 +30,13 @@ Mono {A = A} f = ∀ {C} → (g₁ g₂ : C ⇒ A) → f ∘ g₁ ≈ f ∘ g₂
 Epi : ∀ (f : A ⇒ B) → Set _
 Epi {B = B} f = ∀ {C} → (g₁ g₂ : B ⇒ C) → g₁ ∘ f ≈ g₂ ∘ f → g₁ ≈ g₂
 
-record Iso (from : A ⇒ B) (to : B ⇒ A) : Set (o ⊔ ℓ ⊔ e) where
+record Iso (from : A ⇒ B) (to : B ⇒ A) : Set (ℓ ⊔ e) where
```
Comment (JacquesCarette) [inline Categories/Morphism.agda]: Well-spotted! Please submit this independently if possible?

File: Categories/Morphism/IsoEquiv.agda [hunk 7]
```diff
@@ -50,6 +52,9 @@ record _≃_ (i j : A ≅ B) : Set (o ⊔ ℓ ⊔ e) where
   ; isEquivalence = ≃-isEquivalence
   }
 
+-- sstucki: shouldn't this be called the `Core'?
```
Comment (JacquesCarette) [inline Categories/Morphism/IsoEquiv.agda]: Yes indeed. Apparently neither of us had noticed that there was established terminology for this.  But that should be done separately.

File: Categories/Morphism/Isomorphism.agda [hunk 8]
```diff
@@ -56,6 +56,9 @@ private
     }
     where open _≅_ f
 
+-- sstucki: shouldn't this go into IsoEquiv together with the
```
Comment (JacquesCarette) [inline Categories/Morphism/Isomorphism.agda]: This might be an artifact of porting the old library. And I don't mind splitting some things off into smaller files. I think there was also a circular import problem lurking around here too, but I'm not entirely sure anymore.

**Comment by sstucki** [comment]
Thanks for all the feedback @JacquesCarette!

I'll continue splitting this into smaller PRs and will address your comments there. Then I'll rebase this PR and see if there's anything left to cleanup (hopefully not).

File: Categories/Adjoint/Instance/0-Truncation.agda [hunk 9]
```diff
@@ -0,0 +1,61 @@
+{-# OPTIONS --without-K --safe #-}
+
+module Categories.Adjoint.Instance.0-Truncation where
+
+-- The adjunction between 0-trucation and the inclusion functor from
```
Comment (JacquesCarette) [inline Categories/Adjoint/Instance/0-Truncation.agda]: typo - truncation.

File: Categories/Category/Construction/0-Groupoid.agda [hunk 10]
```diff
@@ -0,0 +1,27 @@
...
+open Setoid S
+
+0-Groupoid : Groupoid c ℓ e
+0-Groupoid = record
+  { category = record
+    { Obj = Carrier
+    ; _⇒_ = _≈_
+    ; _≈_ = λ _ _ → Lift e ⊤
+    ; id  = refl
+    ; _∘_ = λ f g → trans g f
```
Comment (JacquesCarette) [inline Categories/Category/Construction/0-Groupoid.agda]: `flip trans` ?

File: Categories/Functor/Instance/0-Truncation.agda [hunk 11]
```diff
@@ -0,0 +1,54 @@
...
+         { refl  = id
+         ; sym   = _⁻¹
+         ; trans = λ f g → g ∘ f
+         }
+       }
+       where open Groupoid G
+
+     TruncMap : ∀ {G H} → Functor (category G) (category H) →
+                TruncSetoid G ⟶ TruncSetoid H
+     TruncMap {G} {H} F = record { _⟨$⟩_ = F₀ F ; cong  = F₁ F }
```
Comment (JacquesCarette) [inline Categories/Functor/Instance/0-Truncation.agda]: when the implicits are not actually needed, probably best to not bind them at all. [I need to clean up my own code that way often]

File: Categories/Functor/Instance/0-Truncation.agda [hunk 12]
```diff
@@ -0,0 +1,54 @@
...
+
+     TruncRespNI : ∀ {G H : Groupoid o ℓ e}
+                   {E F : Functor (category G) (category H)} →
+                   E ≃ F → Setoids o ℓ [ TruncMap {G} {H} E ≈ TruncMap {G} {H} F ]
+     TruncRespNI {G} {H} {E} {F} μ {a} f = F₁ F f ∘ ⇒.η a
```
Comment (JacquesCarette) [inline Categories/Functor/Instance/0-Truncation.agda]: You don't need to bind `G` or `E` here. Maybe replace them with `_` ?

File: Categories/Adjoint/Instance/0-Truncation.agda (hunk 9 above)
Comment (sstucki) [reply Categories/Adjoint/Instance/0-Truncation.agda]: Fixed — should spell-check my comments 😄

File: Categories/Category/Construction/0-Groupoid.agda (hunk 10 above)
Comment (sstucki) [reply Categories/Category/Construction/0-Groupoid.agda]: Fixed.

File: Categories/Functor/Instance/0-Truncation.agda (hunk 11 above)
Comment (sstucki) [reply Categories/Functor/Instance/0-Truncation.agda]: Fixed.

File: Categories/Functor/Instance/0-Truncation.agda (hunk 12 above)
Comment (sstucki) [reply Categories/Functor/Instance/0-Truncation.agda]: Indeed. Fixed.

**Comment by sstucki** [comment]
@JacquesCarette, I think I addressed all your concerns about the remaining changes in this PR, so it should be ready for merging now.
